datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(C)[NH:10]C[Si](C)(C)C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)[NH+:10](C[Si](C)(C)C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C1CCC(C[NH2:10])CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1CCC(C[NH2+:10][H:20])CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1c[n:10]c2c(ccc3cccnc32)c1C.c1ccc2c(c1)Nc1cccc([O:21][H:20])c1N2>>Cc1c[n+:10]([H:20])c2c(ccc3cccnc32)c1C.c1ccc2c(c1)Nc1cccc([O-:21])c1N2 10=20;20,21=21",
"CC[NH+](CC)CCNc1nc(N)[n:10]c(C)c1C.Cn1ccc2ccc3ccc[n+:21]([H:20])c3c21>>CC[NH+](CC)CCNc1nc(N)[n+:10]([H:20])c(C)c1C.Cn1ccc2ccc3ccc[n:21]c3c21 10=20;20,21=21",
"C=C(C)C=C(C(=O)[O:21][H:20])c1ccc([N+](=O)[O-])cc1.CSc1nccc(C)[n:10]1>>C=C(C)C=C(C(=O)[O-:21])c1ccc([N+](=O)[O-])cc1.CSc1nccc(C)[n+:10]1[H:20] 10=20;20,21=21",
"O=N[N-:10]c1nc([N+](=O)[O-])nn1-c1ccccc1.c1ccc(C[NH+:21](C(CC2CCCCC2)CC2CCCCC2)[H:20])cc1>>O=N[N:10](c1nc([N+](=O)[O-])nn1-c1ccccc1)[H:20].c1ccc(C[NH:21]C(CC2CCCCC2)CC2CCCCC2)cc1 10=20;20,21=21",
"C[N:10]1CC=CC1c1cccnc1.[NH3+]C(CCC(=O)[O:21][H:20])C(=O)[O-]>>C[N+:10]1([H:20])CC=CC1c1cccnc1.[NH3+]C(CCC(=O)[O-:21])C(=O)[O-] 10=20;20,21=21",
"CS(=O)(=O)[N-:10]C(N)=O.C[n+]1ccc2cc([O:21][H:20])ccc2c1>>CS(=O)(=O)[N:10](C(N)=O)[H:20].C[n+]1ccc2cc([O-:21])ccc2c1 10=20;20,21=21",
"CC[N+:21](CC)(Cc1ccccc1O)[H:20].Cc1cc([O-])[n+](C)c([O-])[n:10]1>>CC[N:21](CC)Cc1ccccc1O.Cc1cc([O-])[n+](C)c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"N#CC(C#N)=N[N-:10]c1ccccc1.Nc1ccc(S(=O)(=O)[N:21](c2cccnn2)[H:20])cc1>>N#CC(C#N)=N[N:10](c1ccccc1)[H:20].Nc1ccc(S(=O)(=O)[N-:21]c2cccnn2)cc1 10=20;20,21=21",
"Nc1ccc2ccc[n:10]c2c1.O=C1[C@@H]2C[C@@H](C[N+:21]3([H:20])CCCC[C@@H]23)[C@H]2CCCCN12>>Nc1ccc2ccc[n+:10]([H:20])c2c1.O=C1[C@@H]2C[C@@H](C[N:21]3CCCC[C@@H]23)[C@H]2CCCCN12 10=20;20,21=21",
"Cc1ccc(Cl)cc1C(c1ccccc1)=[N+:21](CCC[NH+](C)C)[H:20].Nc1c2c(nc[n+]1[O-])nc[n-:10]2>>Cc1ccc(Cl)cc1C(c1ccccc1)=[N:21]CCC[NH+](C)C.Nc1c2c(nc[n+]1[O-])nc[n:10]2[H:20] 10=20;20,21=21",
"CCCCOC(c1ccccc1)=[NH:10].c1ccc(-c2cccc(-c3cccc[n+:21]3[H:20])n2)[nH+]c1>>CCCCOC(c1ccccc1)=[NH+:10][H:20].c1ccc(-c2cccc(-c3cccc[n:21]3)n2)[nH+]c1 10=20;20,21=21",
"Nc1cc2ccccc2c[n+:21]1[H:20].c1ccc(c2sc3ccccc3[n:10]2)cc1>>Nc1cc2ccccc2c[n:21]1.c1ccc(c2sc3ccccc3[n+:10]2[H:20])cc1 10=20;20,21=21",
"C1C[NH:10]CCS1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1C[NH+:10]([H:20])CCS1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CCCCOC(=O)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCCCOC(=O)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1.O=C([O-])C1CCCC[NH:10]1>>CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1.O=C([O-])C1CCCC[NH+:10]1[H:20] 10=20;20,21=21",
"CCC(O)C[N+:21](CC)(CCO)[H:20].C[N:10]1CCCC1c1cccnc1>>CCC(O)C[N:21](CC)CCO.C[N+:10]1([H:20])CCCC1c1cccnc1 10=20;20,21=21",
"COc1ccc([O:21][H:20])c(Br)c1.O=[N+]([O-])c1ccccc1[Se][O-:10]>>COc1ccc([O-:21])c(Br)c1.O=[N+]([O-])c1ccccc1[Se][O:10][H:20] 10=20;20,21=21",
"C1CNCCNCCC[NH:10]CCNC1.[NH3+]CCc1ccc[n+:21]([H:20])c1>>C1CNCCNCCC[NH+:10]([H:20])CCNC1.[NH3+]CCc1ccc[n:21]c1 10=20;20,21=21",
"CC(C)[C@H]1C[NH2+][C@H](C(=O)[O-:10])[C@H]1CC(=O)O.CC[NH+](CC)CCNc1nc(N)[n+:21]([H:20])c(C)c1C>>CC(C)[C@H]1C[NH2+][C@H](C(=O)[O:10][H:20])[C@H]1CC(=O)O.CC[NH+](CC)CCNc1nc(N)[n:21]c(C)c1C 10=20;20,21=21",
"CC(=O)OCC1CC2CC[N:10]1CC2.c1ccc(C[NH2+:21][H:20])nc1>>CC(=O)OCC1CC2CC[N+:10]1([H:20])CC2.c1ccc(C[NH2:21])nc1 10=20;20,21=21",
"C[N+]1(CCCCC(=O)[O-:10])CCCCC1.c1cc(C2CCCN2)nc(C2CCC[NH+:21]2[H:20])c1>>C[N+]1(CCCCC(=O)[O:10][H:20])CCCCC1.c1cc(C2CCCN2)nc(C2CCC[NH:21]2)c1 10=20;20,21=21",
"C=CCC(C)(O)C[N:10](CC)CC.O=C([O-])[C@@H]1O[C@@H]1C(=O)[O:21][H:20]>>C=CCC(C)(O)C[N+:10](CC)(CC)[H:20].O=C([O-])[C@@H]1O[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"Cc1c[n+:21]([H:20])c(C)c(O)c1C=O.O=Cc1ncnc2c1[nH]c[n:10]2>>Cc1c[n:21]c(C)c(O)c1C=O.O=Cc1ncnc2c1[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"CC(C)CCCC(C)[NH2:10].CNC(N(C)C)=[N+:21](C)[H:20]>>CC(C)CCCC(C)[NH2+:10][H:20].CNC(N(C)C)=[N:21]C 10=20;20,21=21",
"CC[O-:10].COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1>>CC[O:10][H:20].COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1 10=20;20,21=21",
"Cc1cccc([N-:10]S(=O)(=O)c2ccccc2)c1.O=C(c1cc([N+](=O)[O-])ccc1Sc1ccccc1)[O:21][H:20]>>Cc1cccc([N:10](S(=O)(=O)c2ccccc2)[H:20])c1.O=C(c1cc([N+](=O)[O-])ccc1Sc1ccccc1)[O-:21] 10=20;20,21=21",
"C[NH+](C)CC[Se-:10].c1cc2c([n+:21]([H:20])c1)CCCC2>>C[NH+](C)CC[Se:10][H:20].c1cc2c([n:21]c1)CCCC2 10=20;20,21=21",
"Nc1ccccc1[O-:10].c1ccc(-c2cccc(-c3cccc[n+:21]3[H:20])n2)[nH+]c1>>Nc1ccccc1[O:10][H:20].c1ccc(-c2cccc(-c3cccc[n:21]3)n2)[nH+]c1 10=20;20,21=21",
"Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n+:21]([H:20])c1C.Nc1ccc[n:10]c1>>Cc1[nH]c(-c2ccccc2SCc2ccccc2)[n:21]c1C.Nc1ccc[n+:10]([H:20])c1 10=20;20,21=21",
"O=C(c1cccc(S)c1)[O-:10].Oc1ccc2c(c1)c[n+:21]([H:20])c1ccccc21>>O=C(c1cccc(S)c1)[O:10][H:20].Oc1ccc2c(c1)c[n:21]c1ccccc21 10=20;20,21=21",
